US07737166B2
2-Cyclopropyl-7-methoxy-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-322)
Under argon atmosphere, bis(triphenylphosphine)palladium(II) dichloride (777 mg, 1.11 mmol) was added to a 1,4-dioxane (110 ml) solution of 6-bromo-2-cyclopropyl-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile (I-83) (3.40 g, 11.1 mmol), tributylphenyltin (5.28 g, 14.4 mmol) and 2,6-di-tert-butylcresol (488 mg, 2.21 mmol), followed by stirring in an oil bath at 100° C. for 15 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, and washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was washed with diethyl ether to obtain the entitled compound (3.30 g, 98%) as a pale gray solid.

reactant | 6-bromo-2-cyclopropyl-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile | 11.1 mmol, 3.40 g | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)OC | C13H11BrN2O2
reactant | tributylphenyltin | 14.4 mmol, 5.28 g | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
reactant | 2,6-di-tert-butylcresol | 2.21 mmol, 488 mg | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.11 mmol, 777 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 110 ml | O1CCOCC1 | C4H8O2
product | 2-Cyclopropyl-7-methoxy-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 3.30 g, 98% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2OC)C2=CC=CC=C2)C)C#N | C19H16N2O2
